US05141551
7-(2-Chloro-4-trifluoromethylphenoxy)-2-methyl-2H-1,4-benzoxazine-3 (4H)-one (Example 1)
Methyl 2-[5-(2-chloro-4-trifluoromethylphenoxy)-2-nitrophenoxy]propionate (1.3 g) was dissolved in 10 ml of ethanol, raney nickel was added thereto as a catalyst, and a hydrogenation was then conducted. After the completion of the reaction, the reaction mixture was filtered and concentrated in vacuo, and the residue was purified by silica gel column chromatography (developing solvent: n-hexane/ethyl acetate=1/1) to prepare the title compound (0.9 g) as a colorless crystal (yield: 88%).

reactant | Methyl 2-[5-(2-chloro-4-trifluoromethylphenoxy)-2-nitrophenoxy]propionate | 1.3 g | ClC1=C(OC=2C=CC(=C(OC(C(=O)OC)C)C2)[N+](=O)[O-])C=CC(=C1)C(F)(F)F | C17H13ClF3NO6
solvent | ethanol | 10 ml | C(C)O | C2H6O
catalyst | raney nickel | [Ni] | Ni
product | 7-(2-Chloro-4-trifluoromethylphenoxy)-2-methyl-2H-1,4-benzoxazine-3 (4H)-one | 0.9 g, yield: 88% | ClC1=C(OC2=CC3=C(NC(C(O3)C)=O)C=C2)C=CC(=C1)C(F)(F)F | C16H11ClF3NO3
